US06596772B1
A mixture of 2,5-bis(4-aminophenyl)-(1,3,4)oxadiazole (0.25 g, 0.99 mmol), triflic anhydride (0.333 mL, 1.98 mmol) and 4-dimethylaminopyridine (0.484 g, 3.96 mmol) in DCM was stirred at rt overnight. The reaction was then extracted with EtOAc, washed with brine, dried and concentrated to give 2,5-bis(4-trifluoromethylsulfonamidophenyl)-(1,3,4)oxadiazole. 1HNMR (300 MHz, DMSO-d6) δ 8.28 (m, 2H), 7.98 (m, 2H), 7.79 (m, 2H), 6.70 (m, 2H). MS-EI m/z 516 [M+].

reactant | 2,5-bis(4-aminophenyl)-(1,3,4)oxadiazole | 0.99 mmol, 0.25 g | NC1=CC=C(C=C1)C=1OC(=NN1)C1=CC=C(C=C1)N | C14H12N4O
reactant | triflic anhydride | 1.98 mmol, 0.333 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
catalyst | 4-dimethylaminopyridine | 3.96 mmol, 0.484 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2,5-bis(4-trifluoromethylsulfonamidophenyl)-(1,3,4)oxadiazole | FC(S(=O)(=O)NC1=CC=C(C=C1)C=1OC(=NN1)C1=CC=C(C=C1)NS(=O)(=O)C(F)(F)F)(F)F | C16H10F6N4O5S2
